US08222243B2
2,2-Dimethyl-1-[4-(5-trifluoromethyl-isoxazol-3-yl)-phenyl]-propan-1-one
Prepared from N-Methoxy-N-methyl-4-(5-trifluoromethyl-isoxazol-3-yl)- benzamide and a 1.7 N THF solution of tert-butylmagnesium bromide as described in Example 5. Chromatographed on silica gel with EtOAc/hexanes (5 then 10%) as eluant to afford product as a colorless solid (21 mg, 7%). 1H NMR (CDCl3) 1.37 (s, 9 H), 7.05 (s, 1 H), 7.79 (d, J=8.4, 2 H), 7.87 (d, J=7.9, 2 H). 19F NMR −64.6. LC/MS 7.28 min, [M+1]+ 298.

reactant | N-Methoxy-N-methyl-4-(5-trifluoromethyl-isoxazol-3-yl)- benzamide | CON(C(C1=CC=C(C=C1)C1=NOC(=C1)C(F)(F)F)=O)C | C13H11F3N2O3
reactant | tert-butylmagnesium bromide | C(C)(C)(C)[Mg]Br
solvent | THF | 1.7 N | C1CCOC1 | C4H8O
product | 2,2-Dimethyl-1-[4-(5-trifluoromethyl-isoxazol-3-yl)-phenyl]-propan-1-one | 21 mg, 7% | CC(C(=O)C1=CC=C(C=C1)C1=NOC(=C1)C(F)(F)F)(C)C | C15H14F3NO2
